US04053608
synthesis of N-acetyl 2-dibromomethyl-5-nitronicotinamide (No. 173)
A mixture of 0.48 g of 2-dibromomethyl-5-nitronicotinamide and acetic anhydride was stirred with 3 drops of conc. sulfuric acid at room temperature for 1 hour. The reaction mixture was poured into ice-water, made alkaline with 5% sodium bicarbonate and extracted with ethyl acetate. The extract was dried and the solvent was distilled off to give 0.35 g of crystalline substance, which was then recrystallized from ethyl acetate-n-hexane to give the desired product as yellow needles. mp 168° C. (with decomp.)

reactant | 2-dibromomethyl-5-nitronicotinamide | 0.48 g | BrC(C1=C(C(=O)N)C=C(C=N1)[N+](=O)[O-])Br | C7H5Br2N3O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | N-acetyl 2-dibromomethyl-5-nitronicotinamide | C(C)(=O)NC(C1=C(N=CC(=C1)[N+](=O)[O-])C(Br)Br)=O | C9H7Br2N3O4
